US07186833B2
4-[4-(2-Hydroxypropyloxy)phenyl]butylamidino-3,5-diamino-6-chloropyrazinecarboxamide hydrochloride
Using general procedure Z, 4-[4-(2-hydroxypropyloxy)phenyl]butyl amine was converted into 4-[4-(2-hydroxypropyloxy)phenyl)]butylamidino-3,5-diamino-6-chloropyrazinecarboxamide hydrochloride, m.p. 212–214° C., APCI MS, M/Z=436 [C19H26ClN7O3+H]+.

reactant | 4-[4-(2-hydroxypropyloxy)phenyl]butyl amine | OC(COC1=CC=C(C=C1)CCCCN)C | C13H21NO2
reactant | butylamidino-3,5-diamino-6-chloropyrazinecarboxamide hydrochloride | Cl.C(CCC)NC(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl
product | 4-[4-(2-Hydroxypropyloxy)phenyl]butylamidino-3,5-diamino-6-chloropyrazinecarboxamide hydrochloride | Cl.OC(COC1=CC=C(C=C1)CCCCNC(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl)C | InChI=1S/C19H26ClN7O3.ClH/c1-11(28)10-30-13-7-5-12(6-8-13)4-2-3-9-24-19(23)27-18(29)14-16(21)26-17(22)15(20)25-14;/h5-8,11,28H,2-4,9-10H2,1H3,(H4,21,22,26)(H3,23,24,27,29);1H
